US07781428B2
(±)-(3SR,3aRS)-cyclohexyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate
The title compound was prepared from (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 and cyclohexanol according to Method E. 1H NMR (400 MHz, CDCl3) δ ppm 1.19-1.68 (m, 13H), 1.70-1.86 (m, 3H), 1.87-2.03 (m, 3H), 2.06-2.20 (m, 1H), 2.23-2.39 (m, 1H), 2.85-2.98 (m, 1H), 3.13 (ddd, J=16.18, 3.36, 3.02 Hz, 1H), 3.49 (ddd, J=13.76, 9.33, 4.83 Hz, 1H), 4.63 (dd, J=9.53, 5.50 Hz, 1H), 5.04 (ddd, J=12.82, 8.93, 3.76 Hz, 1H), 7.02 (dd, J=8.86, 1.88 Hz, 1H), 7.30 (d, J=2.15 Hz, 1H), 7.46 (d, J=8.86 Hz, 1H), 7.87-7.97 (m, 2H), 8.14 (d, J=8.32 Hz, 1H).

reactant | (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
product | (±)-(3SR,3aRS)-cyclohexyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OC3CCCCC3 | C30H32ClN3O2
